US07700773B2
To a stirred solution of (1H-Pyrazol-3-yl)-acetonitrile (100 mg, 0.93 mM) in absolute EtOH (4.7 mL) at 25° C. was added benzylidene malononitrile (144 mg, 0.93 mM) and piperidine (0.009 mL, 0.09 mM). The mixture then refluxed for 1.0 hr. The solvent evaporated. Chromatography done on silica gel (60×2.5 cm) with CH2Cl2 afforded 7-Amino-5-phenyl-pyrazolo[1,5-a]pyridine-4,6-dicarbonitrile (34.6 mg, 14%) LCMS: MH+=260; HRMS: m/z 260.0938 (MH+), Calcd. C15H9N5: m/z 260.0936; δC (DMSO) CH: 99.0, 128.5, 128.5, 128.8, 128.8, 129.8, 145.4; C: 75.4, 86.9, 115.5, 116.0, 134.8, 138.9, 148.1, 149.4.

reactant | (1H-Pyrazol-3-yl)-acetonitrile | 0.93 mM, 100 mg | N1N=C(C=C1)CC#N | C5H5N3
reactant | benzylidene malononitrile | 0.93 mM, 144 mg | C(C1=CC=CC=C1)=C(C#N)C#N | C10H6N2
reactant | piperidine | 0.09 mM, 0.009 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 4.7 mL | CCO | C2H6O
product | 7-Amino-5-phenyl-pyrazolo[1,5-a]pyridine-4,6-dicarbonitrile | 34.6 mg, 14% | NC1=C(C(=C(C=2N1N=CC2)C#N)C2=CC=CC=C2)C#N | C15H9N5
